US08309721B2
200 mg of 2-cyano-3,5-difluoropyridine, 236 mg of 4-aminotetrahydropyran hydrochloride, 395 mg of potassium carbonate and 173.4 mg of triethylamine in 3 ml of dimethyl sulphoxide are introduced into a 5 ml microwave tube reactor. The mixture is then heated in a microwave for 1 hour at 115° C. The reaction medium is run into 50 ml of water and 50 ml of ethyl acetate. The aqueous phase is re-extracted twice with 25 ml of ethyl acetate. The combined organic phases are washed with water and then with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. After purification by flash chromatography on 25 g of silica gel, elution being carried out with mixtures of ethyl acetate and heptane (40/60 then 60/40 by volume), and the first eluted product being recovered, 80 mg of 2-cyano-5-fluoro-3-(tetrahydropyran-4-yl)aminopyridine are thus obtained in the form of an ecru powder, the characteristics of which are the following:

reactant | 2-cyano-3,5-difluoropyridine | 200 mg | C(#N)C1=NC=C(C=C1F)F | C6H2F2N2
reactant | 4-aminotetrahydropyran hydrochloride | 236 mg | Cl.NC1CCOCC1
reactant | potassium carbonate | 395 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 173.4 mg | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulphoxide | 3 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-cyano-5-fluoro-3-(tetrahydropyran-4-yl)aminopyridine | 80 mg | C(#N)C1=NC=C(C=C1NC1CCOCC1)F | C11H12FN3O
